US08012976B2
8-(4-Fluorophenyl)-8-methyl-9-(1-methyl-1H-imidazol-2-yl)-8,9-dihydro-2H-pyrido[4,3,2-de]phthalazin-3(7H)-one
To a solution of ethyl 2-(4-fluorophenyl)-2-methyl-3-(1-methyl-1H-imidazol-2-yl)-4-oxo-1,2,3,4-tetrahydroquinoline-5-carboxylate (120 mg, 0.30 mmol) in methanol (4 mL) was added hydrazine monohydrate (0.7 mL) at room temperature, the mixture was stirred under 30° C. for 10 hr. The solvent was evaporated to obtain crude solid, which was washed by 14 mL of mixture of ethyl acetate and methanol (13:1) to obtain the title compound as a green solid (40 mg, yield 36%). LC-MS (ESI) m/z: 376 (M+1)+. 1H-NMR (400 MHz, DMSO-d6) δ (ppm): 1.39 (s, 3H), 3.71 (s, 3H), 4.74 (s, 1H), 6.72 (s, 1H), 7.03 (s, 1H), 7.06-7.11 (m, 2H), 7.16-7.19 (d, J=8 Hz, 1H), 7.25-7.28 (d, J=8 Hz, 1H), 7.49 (s, 1H), 7.54-7.58 (m, 3H), 12.05 (s, 1H).

reactant | ethyl 2-(4-fluorophenyl)-2-methyl-3-(1-methyl-1H-imidazol-2-yl)-4-oxo-1,2,3,4-tetrahydroquinoline-5-carboxylate | 0.30 mmol, 120 mg | FC1=CC=C(C=C1)C1(NC=2C=CC=C(C2C(C1C=1N(C=CN1)C)=O)C(=O)OCC)C | C23H22FN3O3
reactant | hydrazine monohydrate | 0.7 mL | O.NN
solvent | methanol | 4 mL | CO | CH4O
product | 8-(4-Fluorophenyl)-8-methyl-9-(1-methyl-1H-imidazol-2-yl)-8,9-dihydro-2H-pyrido[4,3,2-de]phthalazin-3(7H)-one | 40 mg, yield 36% | FC1=CC=C(C=C1)C1(C(C2=NNC(C=3C=CC=C(C23)N1)=O)C=1N(C=CN1)C)C | C21H18FN5O
